US05457134
Synthesis of 3,4,4-trifluoro-3-butenethioic acid, S-2-aminoethyl ester, hydrochloride (Compound 127)
A mixture of 3,4,4-trifluoro-3-butenoyl chloride (2.5 g, 0.0158 mole) and 2-aminoethanethiol hydrochloride (1.14 g, 0.010 mole) is slowly heated to reflux for 15 min. The mixture is cooled to room temperature and treated with dry ether and filtered. The product is recrystallized from absolute ethanol to give 0.8 g of the title compound as a off-white solid, a 34% yield. m.p. 95°-115° C.

reactant | 3,4,4-trifluoro-3-butenoyl chloride | 0.0158 mole, 2.5 g | FC(CC(=O)Cl)=C(F)F | C4H2ClF3O
reactant | 2-aminoethanethiol hydrochloride | 0.010 mole, 1.14 g | Cl.NCCS
solvent | ether | CCOCC | C4H10O
product | 3,4,4-trifluoro-3-butenethioic acid, S-2-aminoethyl ester, hydrochloride | 0.8 g, 34% yield | Cl.FC(CC(SCCN)=O)=C(F)F | InChI=1S/C6H8F3NOS.ClH/c7-4(6(8)9)3-5(11)12-2-1-10;/h1-3,10H2;1H
